US07662830B2
4. 1′-[6-(3-Chloro-4-fluoro-phenyl)-2-(4-propyl-piperazin-1-yl)-pyrimidin-4-yl]-3-methyl-5-nitro-1′,2′,3′,4′,5′,6′-hexahydro-[2,4′]bipyridinyl
Heat a mixture of 4-(3-chloro-4-fluoro-phenyl)-6-piperazin-1-yl-2-(4-propyl-piperazin-1-yl)-pyrimidine (300 mg, 0.72 mmol), 2-chloro-3-methyl-5-nitro-pyridine (149 mg, 0.86 mmol) and DIEA (186 mg, 1.44 mmol) in DMA (4 mL) for 16 h at 110° C. Cool, partition between 10% NaOH and EtOAc and wash the organic layer with additional NaOH solution (3×). Dry the organic layer (Na2SO4) and concentrate under reduced pressure to afford the title compound.

reactant | 4-(3-chloro-4-fluoro-phenyl)-6-piperazin-1-yl-2-(4-propyl-piperazin-1-yl)-pyrimidine | 0.72 mmol, 300 mg | ClC=1C=C(C=CC1F)C1=NC(=NC(=C1)N1CCNCC1)N1CCN(CC1)CCC | C21H28ClFN6
reactant | 2-chloro-3-methyl-5-nitro-pyridine | 0.86 mmol, 149 mg | ClC1=NC=C(C=C1C)[N+](=O)[O-] | C6H5ClN2O2
reactant | DIEA | 1.44 mmol, 186 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMA | 4 mL | CC(=O)N(C)C | C4H9NO
product | 1′-[6-(3-Chloro-4-fluoro-phenyl)-2-(4-propyl-piperazin-1-yl)-pyrimidin-4-yl]-3-methyl-5-nitro-1′,2′,3′,4′,5′,6′-hexahydro-[2,4′]bipyridinyl | ClC=1C=C(C=CC1F)C1=CC(=NC(=N1)N1CCN(CC1)CCC)N1CCC(CC1)C1=NC=C(C=C1C)[N+](=O)[O-] | C28H33ClFN7O2
